US07119068B2
In a flask equipped with a reflux condenser and a magnetic stirring bar are dissolved the methyl 5-benzyloxy-2-hydroxybenzoate and one equivalent of 2-(S)-amino-3-phenyl-1-propanol in dry dimethyl formamide. The flask is immersed in an oil bath at 75° C. and left to stir for 72 hours. The solvent is evaporated and the residue is isolated through the use of a silica gel column using a mixture of ethyl acetate and hexane as eluent. In this fashion is obtained in 50% yield, N-{(S)-1-hydroxy-3-phenyl-2-propyl}-5-benzyloxy-2-hydroxybenzamide.

reactant | methyl 5-benzyloxy-2-hydroxybenzoate | C(C1=CC=CC=C1)OC=1C=CC(=C(C(=O)OC)C1)O | C15H14O4
reactant | 2-(S)-amino-3-phenyl-1-propanol | one equivalent | N[C@H](CO)CC1=CC=CC=C1 | C9H13NO
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | N-{(S)-1-hydroxy-3-phenyl-2-propyl}-5-benzyloxy-2-hydroxybenzamide | 50% yield | OC[C@H](CC1=CC=CC=C1)NC(C1=C(C=CC(=C1)OCC1=CC=CC=C1)O)=O | C23H23NO4
